US06759554B2
N-(4-Allyloxycarbonylphenyl)benzamide
Using general procedure A, benzamide (150 mg, 1.24 mmol) was coupled with allyl 4-iodobenzoate (300 mg, 1.04 mmol). The crude product was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 3:1; 10 mL fractions). Fractions 8-15 provided 266 mg (91% yield) of the product as white crystals. 1H NMR (400 MHz, CDCl3): δ 8.14−8.09 (m, 2H), 8.00 (br s, 1H), 7.93−7.88 (m, 2H), 7.80−7.75 (m, 2H), 7.63−7.58 (m, 1H), 7.56−7.51 (m, 2H), 6.07 (ddt, J=17.2, 11.7, 5.6 Hz, 1H), 5.45 (dq, J=17.2, 1.4 Hz, 1H), 5.32 (dq, J=11.7, 1.4 Hz, 1H), 4.85 (dt, J=5.6, 1.4 Hz, 2H).

reactant | benzamide | 1.24 mmol, 150 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | allyl 4-iodobenzoate | 1.04 mmol, 300 mg | IC1=CC=C(C(=O)OCC=C)C=C1 | C10H9IO2
product | N-(4-Allyloxycarbonylphenyl)benzamide | 266 mg, 91% yield | C(C=C)OC(=O)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C17H15NO3
